US06048885
Magnesium (0.73 g, 0.03 mol) and bromoethane (0.2 ml) were added to a mixture of 1-bromo-2-(2-tetrahydropyranyloxymethyl)benzene (5.42 g, 0.02 mol) and THF (50 ml) under an atmosphere of nitrogen gas, and the resulting mixture was stirred at 50 to 60° C. for 1 hour to prepare Grignard reagent. The Grignard reagent was added dropwise to a mixture of N-methoxy-3, N-dimethyl-5-isoxazolcarboxamide (3.40 g, 0.02 mol) and THF (40 ml). The mixture was stirred at -60° C. to room temperature for 1 hour, water (200 ml) was added, and the mixture was extracted with ether (200 ml). The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(2-tetrahydropyranyloxymethyl)phenyl 3-methylisoxazol-5-yl ketone (4.09 g, yield: 67.9%) as a colorless oil.

reactant | Magnesium | 0.03 mol, 0.73 g | [Mg] | Mg
reactant | bromoethane | 0.2 ml | BrCC | C2H5Br
reactant | 1-bromo-2-(2-tetrahydropyranyloxymethyl)benzene | 0.02 mol, 5.42 g | BrC1=C(C=CC=C1)COC1OCCCC1 | C12H15BrO2
reactant | N-methoxy-3, N-dimethyl-5-isoxazolcarboxamide | 0.02 mol, 3.40 g | CON(C(=O)C1=CC(=NO1)C)C | C7H10N2O3
solvent | water | 200 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(2-tetrahydropyranyloxymethyl)phenyl 3-methylisoxazol-5-yl ketone | 4.09 g, yield: 67.9% | CC1=NOC(=C1)C(=O)C1=C(C=CC=C1)COC1OCCCC1 | C17H19NO4
